US05585394
A) 4-Chloro-2-[(morpholin-4-yl)amino]-1-nitrobenzene
A mixture of 45 g of 4-chloro-1,2-dinitrobenzene, 25 g of 4-aminomorpholine and 30 g of triethylamine in 250 ml of 96° EtOH is stirred for 48 hours at RT. The precipitate formed is filtered off and washed with iso ether to give 30.2 g of the expected product. M.p.=155° C.

reactant | 4-chloro-1,2-dinitrobenzene | 45 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 4-aminomorpholine | 25 g | NN1CCOCC1 | C4H10N2O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | CCO | C2H6O
product | 4-Chloro-2-[(morpholin-4-yl)amino]-1-nitrobenzene | 30.2 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NN1CCOCC1 | C10H12ClN3O3
